US07253286B2
4-Chloro-3-iodo-2-pyridinamine
A solution of 10 g of the publicly known compound tert-butyl N-(4-chloro-2-pyridyl)carbamate, 16.6 ml of N,N,N′,N′-tetramethylethylenediamine and 200 ml of tetrahydrofuran was cooled to −75° C., and then 42 ml of n-butyllithium (2.6M solution in hexane) was added dropwise over a period of 30 minutes while stirring. After stirring for 1 hour at −75° C., a solution of 28 g of iodine in 28 ml of tetrahydrofuran was added dropwise over a period of 30 minutes. After completion of the dropwise addition, stirring was continued for another 30 minutes at −75° C., and then the mixture was returned to room temperature, aqueous sodium bisulfate was added and extraction was performed with ethyl acetate. NH type silica gel was added to the extract, the solvent was distilled off under reduced pressure, and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (hexane:ethyl acetate=3:1). The solvent was distilled off under reduced pressure, 48% HBr water was added to the residue, and the mixture was stirred at 100° C. for 5 minutes. After adding ice water and 5 N sodium hydroxide water to the reaction solution, the precipitated solid was filtered out to obtain 7.4 g of a light yellow solid.

reactant | tert-butyl N-(4-chloro-2-pyridyl)carbamate | ClC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C10H13ClN2O2
reactant | N,N,N′,N′-tetramethylethylenediamine | 16.6 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 2.6M, 42 ml | C(CCC)[Li]
reactant | iodine | 28 g | II | I2
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-Chloro-3-iodo-2-pyridinamine | 7.4 g | ClC1=C(C(=NC=C1)N)I | C5H4ClIN2
